US08350099B2
Preparation of 2-(2-chloro-1,1,2-trifluoro-2-(perfluoropropoxy)ethoxy)terephthalic acid
Dimethyl 2-(2-chloro-1,1,2-trifluoro-2-(perfluoropropoxy)ethoxy)terephthalate as prepared in Example 6 (50.00 g, 0.35 mol) was added to a solution of water (726 mL) and potassium hydroxide (KOH, 56.95 g) in a reaction flask. The resulting solution in the reaction flask was heated to reflux overnight, cooled to room temperature (about 25° C.) and then acidified to a pH of ˜1 by adding concentrated HCl until a precipitate formed. The resulting precipitate was filtered and dried under vacuum. Proton NMR of this material showed the desired material, 2-(2-chloro-1,1,2-trifluoro-2-(perfluoropropoxy)ethoxy)terephthalic acid.

reactant | Dimethyl 2-(2-chloro-1,1,2-trifluoro-2-(perfluoropropoxy)ethoxy)terephthalate | ClC(C(OC1=C(C(=O)OC)C=CC(=C1)C(=O)OC)(F)F)(OC(C(C(F)(F)F)(F)F)(F)F)F | C15H9ClF10O6
reactant | potassium hydroxide | 56.95 g | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | water | 726 mL | O | H2O
product | 2-(2-chloro-1,1,2-trifluoro-2-(perfluoropropoxy)ethoxy)terephthalic acid | ClC(C(OC1=C(C(=O)O)C=CC(=C1)C(=O)O)(F)F)(OC(C(C(F)(F)F)(F)F)(F)F)F | C13H5ClF10O6
